US07977344B2
2-[(2-Cyclopropylethyl)oxy]-9-[4-(2,2-dimethyltetrahydro-2H-pyran-4-yl)butyl]-8-(methyloxy)-9H-Purin-6-amine
Prepared similarly to Intermediate 223 from 2-[(2-cyclopropylethyl)oxy]-8-(methyloxy)-1H-purin-6-amine trifluoroacetate and 4-(4-bromobutyl)-2,2-dimethyltetrahydro-2H-pyran but conducting the alkylation over 1.5 hours at 60° C.

reactant | 2-[(2-cyclopropylethyl)oxy]-8-(methyloxy)-1H-purin-6-amine trifluoroacetate | FC(C(=O)O)(F)F.C1(CC1)CCOC=1NC(=C2N=C(N=C2N1)OC)N
reactant | 4-(4-bromobutyl)-2,2-dimethyltetrahydro-2H-pyran | BrCCCCC1CC(OCC1)(C)C | C11H21BrO
product | 2-[(2-Cyclopropylethyl)oxy]-9-[4-(2,2-dimethyltetrahydro-2H-pyran-4-yl)butyl]-8-(methyloxy)-9H-Purin-6-amine | C1(CC1)CCOC1=NC(=C2N=C(N(C2=N1)CCCCC1CC(OCC1)(C)C)OC)N | C22H35N5O3
